US07091214B2
8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and thiophene-3-boronic acid were coupled according to the general procedure described in Part J of Example 1. Recrystallization from isopropanol followed by chromatography on silica gel (7% methanol in CH2Cl2) afforded 1-isobutyl-8-(thiophen-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. 235–236° C.

reactant | 8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C14H15BrN4
reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 1-isobutyl-8-(thiophen-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | C(C(C)C)N1C=NC=2C(=NC=3C=CC(=CC3C21)C2=CSC=C2)N | C18H18N4S
